US06143764
N-(4-Methoxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolinyl)oxy]phenyl}urea [43]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (53 mg) was dissolved in toluene (3 ml) with heat, 4-methoxyphenyl isocyanate (0.2 ml) was added, and the admixture was refluxed with heat for 30 minutes. The separated crystals were filtered and washed with toluene to obtain 54 mg of the title compound (yield: 68%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 53 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-methoxyphenyl isocyanate | 0.2 ml | COC1=CC=C(C=C1)N=C=O | C8H7NO2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-Methoxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolinyl)oxy]phenyl}urea | 54 mg, yield: 68% | COC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C25H23N3O5
